US06562828B1
4-Ethoxycarbonyl-4-(2-methanesulfonyloxyethyl)piperidine-1-carboxylic Acid tert-Butyl Ester
To a solution of 4-ethoxycarbonyl-4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester (1.92 g) in a mixture of triethylamine (1.15 ml) and methylene chloride (40 ml) was added methanesulfonyl chloride (0.592 ml) at −78° C., and the mixture was stirred for 1 hour. After completion of the reaction, aqueous sodium hydrogencarbonate was added and the organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) and dried under reduced pressure to give the title compound (2.38 g).

reactant | 4-ethoxycarbonyl-4-(2-hydroxyethyl)piperidine-1-carboxylic acid tert-butyl ester | 1.92 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCO)C(=O)OCC | C15H27NO5
reactant | methanesulfonyl chloride | 0.592 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | triethylamine | 1.15 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-Ethoxycarbonyl-4-(2-methanesulfonyloxyethyl)piperidine-1-carboxylic Acid tert-Butyl Ester | 2.38 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(CCOS(=O)(=O)C)C(=O)OCC | C16H29NO7S
